US07902252B2
2.74. Synthesis of 4-(2,2,2-trifluoroethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (38)
The title compound was synthesized from methyl 4-(2,2,2-trifluoroethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.2888 g, 1.2 mmol, 1 equiv) and lithium hydroxide (1.1 mL, 2 M aqueous, 5.3 equiv) according to General Procedure 7. The resulting product was purified by preparative HPLC (using the Chromeleon purification system (0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 50% methanol and increasing to 100% over 7 minutes)) to afford the title compound. 60.2 mg, (63%), with purity by HPLC of 98.9% (UV). LCMS m/e 232 (M−H). 19F NMR (376 MHz, METHANOL-d4) δ ppm −66.50 (t, J=9.94 Hz, 3F). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.05-2.17 (m, 1H), 2.19-2.33 (m, 1H), 2.44 (ddd, J=14.88, 11.45, 6.56 Hz, 1H), 2.59-2.83 (m, 3H), 3.23 (quin, J=6.79 Hz, 1H), 6.65 (s, 1H).

reactant | methyl 4-(2,2,2-trifluoroethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.2 mmol, 0.2888 g, 1 equiv | FC(CC1CCC=2NC(=CC21)C(=O)OC)(F)F | C11H12F3NO2
reactant | lithium hydroxide | 2 M, 1.1 mL, 5.3 equiv | [OH-].[Li+]
product | 4-(2,2,2-trifluoroethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC(CC1CCC=2NC(=CC21)C(=O)O)(F)F | C10H10F3NO2
